US08242104B2
3-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulen-8-yl]-azetidine-1-carboxylic acid tert-butyl ester was prepared similarly to 3-{2-[2-(2,4-difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulen-8-yl}-azetidine-1-carboxylic acid tert-butyl ester from 8-bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene and 3-azetidine-1-carboxylic acid tert-butyl ester zinc iodide. LCMS: RT=4.85 min, M+H+=451 (40%), M+H+-OtBu=395 (100%), M+H+-Boc=351 (10%).

reactant | 3-{2-[2-(2,4-difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulen-8-yl}-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)C1=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C2=C(C=C(C=C2)F)F)C=C1 | C27H26F2N6O3
reactant | 8-bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene | BrC1=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C16H16BrN5O
product | 3-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulen-8-yl]-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)C1=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C24H30N6O3
